US05500484
The procedure in Example 6 was repeated except that 2-ethoxy-2-phenylethanal was replaced with 2-isopropoxy-2-phenylethanal, to obtain 2-isopropoxy-2-phenyl-1,3-propanediol.

reactant | 2-ethoxy-2-phenylethanal | C(C)OC(C=O)C1=CC=CC=C1 | C10H12O2
reactant | 2-isopropoxy-2-phenylethanal | C(C)(C)OC(C=O)C1=CC=CC=C1 | C11H14O2
product | 2-isopropoxy-2-phenyl-1,3-propanediol | C(C)(C)OC(CO)(CO)C1=CC=CC=C1 | C12H18O3
